US03951999
4-Ethyl-4'-fluoro-2-hydroxybenzophenone
3-Ethylphenol (24.4g) and 4-fluorobenzoyl chloride (34.9g) were reacted together as in Example 11 giving three main fractions: B (11.4g) 126°-129°C at 0.07 mmHg; C (7.9g), 129°-132°C at 0.06 mmHg; D (5.9g), 132°-150°C at 0.06 mmHg, all containing ~80% of the required isomer. B (4.0g) was separated by preparative thin layer chromatography to give the title compound (2.6g), m.p. 44°-48°C.

reactant | 3-Ethylphenol | 24.4g | C(C)C=1C=C(C=CC1)O | C8H10O
reactant | 4-fluorobenzoyl chloride | 34.9g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 4-Ethyl-4'-fluoro-2-hydroxybenzophenone | 2.6g | C(C)C1=CC(=C(C(=O)C2=CC=C(C=C2)F)C=C1)O | C15H13FO2
